* AP63203 3.3 V buck, substitute power-stage model.
*
* Diodes publishes no distributable ngspice model for this part, which its V1
* record states, so every number here is quoted from the filed data sheet
* Vault/Scacchiera/Datasheets/AP63203WU-7_C780769.pdf.
*
* Fitted parameters:
*   fsw      1100 kHz. The Oscillator Frequency table gives 1100 kHz for
*            AP63203/AP63205 and 500 kHz for AP63200/AP63201; this part is the
*            1100 kHz one, and reading the wrong row would halve the ripple.
*   rds_hs   125 mOhm, High-Side Switch On-Resistance.
*   rds_ls   68 mOhm, Low-Side Switch On-Resistance.
*   vref     3.30 V, the CCM Feedback Voltage for the AP63203, whose 3.27 to
*            3.33 V band the bench sweeps separately rather than baking in here.
*
* What this model is for: the power stage. Inductor ripple and peak current,
* output ripple, and conduction loss, with the real inductor and the real
* output capacitance. Those follow from switching frequency, duty and the
* passive values, and are exactly what a formula alone cannot be trusted for.
*
* What it deliberately does not model, so nobody reads a result it cannot give:
*
*   Loop compensation, and any control behaviour at all. The part compensates
*   internally and the data sheet does not publish the network, so rather than
*   invent one this model has no feedback: the bench computes the duty each
*   corner needs from the conduction drops and drives it open loop. That keeps
*   every dynamic here traceable to a data sheet number, and it means the bench
*   says nothing about transient response, phase margin or stability. The data
*   sheet asserts those and V8 measures them. FB is terminated, not read.
*
*   Light-load PFM. This is a continuous-conduction model with a synchronous
*   rectifier that conducts in both directions. Below the CCM boundary, around
*   110 mA at nominal values, the real part enters pulse-frequency modulation
*   and this model does not. The bench sweeps loads above that boundary.
*
*   Soft start, spread spectrum, current limit, thermal shutdown. The 4 ms
*   soft start and the +/-6 percent frequency dither exist in the part and not
*   here; both matter for startup and EMI, which are separate cases.
*
.subckt AP63203 fb en vin gnd sw bst
+ params: duty=0.66 fsw=1100k rds_hs=0.125 rds_ls=0.068
* A sawtooth at the switching frequency, compared against the demanded duty.
Bsaw sawtooth gnd V = '(time * fsw) - floor(time * fsw)'
Bpwm pwm gnd V = '{duty} > V(sawtooth,gnd) ? 1 : 0'
* Complementary switches at their data sheet on-resistances. Off is 100 MOhm,
* which is six orders above the load and cannot carry a meaningful current.
Rhs vin sw R = 'V(pwm,gnd) > 0.5 ? rds_hs : 100meg'
Rls sw gnd R = 'V(pwm,gnd) > 0.5 ? 100meg : rds_ls'
* FB, EN and BST exist so the schematic's pins have somewhere to land. The
* model has no feedback, no enable sequencing and no bootstrap charge pump.
Rfb fb gnd 100meg
Ren en gnd 1meg
Rbst bst sw 1meg
.ends AP63203
